US04325956
a. Preparation of 6-amino-1-propyl-2,4-(1H,3H)-pyrimidinedione II
To a solution of 47 g. (0.55 mol) cyanoacetic acid and 100 ml of acetic anhydride was added 50 g (0.49 mol) of n-propylurea. The solution was stirred at 60°-70° C. for 1 hour. After cooling, white crystals were filtered off and washed with ethanol. Yield 56.2 g (68%) (I). This was stirred in 100 ml of hot water and 60 ml of 2 N NaOH was added in portions so the solution the whole time was basic. The reaction mixture was refluxed for 20 minutes and then neutralized with 5 N HCl. After cooling, white crystals were filtered off. Yield 34.3 g (61%) (II) NMR.

reactant | cyanoacetic acid | 0.55 mol | C(#N)CC(=O)O | C3H3NO2
reactant | n-propylurea | 0.49 mol, 50 g | C(CC)NC(=O)N | C4H10N2O
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-amino-1-propyl-2,4-(1H,3H)-pyrimidinedione | NC1=CC(NC(N1CCC)=O)=O | C7H11N3O2
